US09371285B2
4′-(Cyclopropylcarbamoyl)biphenyl-4-yl N-methyl-N-(3-(pyridin-4-yl)benzyl)carbamate (compound 5)
Into a 100-mL round-bottom flask was placed a solution of 4-[4-(cyclopropylcarbamoyl)phenyl]phenyl 2,5-dioxopyrrolidin-1-yl carbonate (600 mg, 1.52 mmol, 1.00 equiv) in dichloromethane (40 mL), N-methyl([[3-(pyridin-4-yl)phenyl]methyl])amine (301 mg, 1.52 mmol, 1.00 equiv) and triethylamine (153 mg, 1.51 mmol, 0.99 equiv). The resulting solution was stirred overnight at room temperature. The reaction mixture was washed with 2×20 mL of water and dried over anhydrous sodium sulfate. The resulting mixture was concentrated under vacuum. The crude product (650 mg) was purified by Prep-HPLC with the following conditions (1#-Pre-HPLC-002(Agilent)): Column, SunFire Prep C18, 19*150 mm 5 um; mobile phase, water and acetonitrile (10.0% acetonitrile up to 80.0% in 10 min, up to 100.0% in 1 min, down to 10.0% in 2 min); Detector, uv 220 & 254 nm. The title compound was obtained as a white solid.

reactant | 4-[4-(cyclopropylcarbamoyl)phenyl]phenyl 2,5-dioxopyrrolidin-1-yl carbonate | 1.52 mmol, 600 mg, 1.00 equiv | C(OC1=CC=C(C=C1)C1=CC=C(C=C1)C(NC1CC1)=O)(ON1C(CCC1=O)=O)=O | C21H18N2O6
reactant | N-methyl([[3-(pyridin-4-yl)phenyl]methyl])amine | 1.52 mmol, 301 mg, 1.00 equiv | CNCC1=CC(=CC=C1)C1=CC=NC=C1 | C13H14N2
reactant | triethylamine | 1.51 mmol, 153 mg, 0.99 equiv | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
product | 4′-(Cyclopropylcarbamoyl)biphenyl-4-yl N-methyl-N-(3-(pyridin-4-yl)benzyl)carbamate | CN(C(OC1=CC=C(C=C1)C1=CC=C(C=C1)C(NC1CC1)=O)=O)CC1=CC(=CC=C1)C1=CC=NC=C1 | C30H27N3O3
